US07834007B2
To a solution of (R)-methyl 2-amino-3-(7-methyl-1H-indazol-5-yl)propanoate hydrochloride (2.69 g, 10 mmol) in DMF (20 mL) was added N,N′-disuccinimidyl carbonate followed by triethylamine (5.6 mL, 40 mmol). After 20 min, 3-(piperidin-4-yl)quinolin-2(1H)-one (2.28 g, 10 mmol) was added at once. The reaction mixture was stirred at room temperature for 12 h. The reaction mixture was then diluted with CH2Cl2 (250 mL), washed with water (2×100 mL), 1 M sodium hydroxide (30 mL) and then with 1.0 M hydrogen chloride (100 mL). The organic phase was dried (Na2SO4) and then purified by flash chromatography using 5% methanol in dichloromethane to give (R)-methyl 3-(7-methyl-1H-indazol-5-yl)-2-(4-(2-oxo-1,2-dihydroquinolin-3-yl)piperidine-1-carboxamido)propanoate in 68% yield. MS (ESI) 488 (M+H) ; Rf=2.14.

reactant | (R)-methyl 2-amino-3-(7-methyl-1H-indazol-5-yl)propanoate hydrochloride | 10 mmol, 2.69 g | Cl.N[C@@H](C(=O)OC)CC=1C=C2C=NNC2=C(C1)C
reactant | N,N′-disuccinimidyl carbonate | C1CC(=O)N(C1=O)OC(=O)ON2C(=O)CCC2=O | C9H8N2O7
reactant | triethylamine | 40 mmol, 5.6 mL | C(C)N(CC)CC | C6H15N
reactant | 3-(piperidin-4-yl)quinolin-2(1H)-one | 10 mmol, 2.28 g | N1CCC(CC1)C=1C(NC2=CC=CC=C2C1)=O | C14H16N2O
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | 250 mL | C(Cl)Cl | CH2Cl2
product | (R)-methyl 3-(7-methyl-1H-indazol-5-yl)-2-(4-(2-oxo-1,2-dihydroquinolin-3-yl)piperidine-1-carboxamido)propanoate | 68% yield | CC=1C=C(C=C2C=NNC12)C[C@H](C(=O)OC)NC(=O)N1CCC(CC1)C=1C(NC2=CC=CC=C2C1)=O | C27H29N5O4
